US09029064B2
In a nitrogen atmosphere, 50 g of 1-tert-butoxycarbonylpiperidin-4-ol, 26.8 g of triethylamine, and 2.9 g of 4-dimethylaminopyridine were mixed in 200 g of toluene. Under ice cooling, 40 g of methacrylic anhydride was added dropwise to the solution at a temperature below 40° C. The solution was stirred for 4 hours at room temperature, whereupon 100 g of water was added dropwise below 20° C. to quench the reaction. This was followed by standard aqueous workup and vacuum distillation, obtaining 48.9 g of 1-tert-butoxycarbonylpiperidin-4-yl methacrylate (yield 90%).

reactant | 1-tert-butoxycarbonylpiperidin-4-ol | 50 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triethylamine | 26.8 g | C(C)N(CC)CC | C6H15N
reactant | methacrylic anhydride | 40 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
reactant | water | 100 g | O | H2O
catalyst | 4-dimethylaminopyridine | 2.9 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 200 g | C1(=CC=CC=C1)C | C7H8
product | 1-tert-butoxycarbonylpiperidin-4-yl methacrylate | 48.9 g, yield 90% | C(C(=C)C)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C14H23NO4
